US06632824B2
6-Methoxyquinolin-8-ol
To a −25° C. solution of 3.0 g (15.9 mmol) 6,8-dimethoxyquinoline and 160 mL CH2Cl2 is added 16 mL (15.9 mmol) of 1M BBr3 in CH2Cl2. After stirring for 2 h at −25° C., the reaction mixture is quenched with 300 mL of H2O, the layers separated in a separatory funnel, and the aqueous extracted with CH2Cl2 (2×100 mL). The combined organics are washed with 1×100 mL H2O, 1×100 mL brine, dried over MgSO4, filtered, and the volatiles are evaporated. Flash chromatography on SiO2, eluting with 3/1 EtOAc/hexanes containing 10% MeOH, gives 0.96 g (5.48 mmol, a 34% yield) of the title compound as an tan solid. MS (ES) m/z 176 (MH)+.

reactant | 6,8-dimethoxyquinoline | 15.9 mmol, 3.0 g | COC=1C=C2C=CC=NC2=C(C1)OC | C11H11NO2
reactant | BBr3 | 15.9 mmol, 1M, 16 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 160 mL | C(Cl)Cl | CH2Cl2
product | 6-Methoxyquinolin-8-ol | 34% yield | COC=1C=C2C=CC=NC2=C(C1)O | C10H9NO2
